US09085576B2
To a solution of 1-isopropyl-1 h-pyrazole-3-caboxylic acid (0.9757 g, 6.33 mmol, Matrix Scientific) in MeOH (31.6 ml) in a glass pressure vessel was added sulfuric acid (0.355 ml, 6.33 mmol Sigma Aldrich). The vessel was sealed and the rxn was brought to reflux to stir. (NOTE: A portable blast shield was used.) Rxn was allowed to stir for 5 hours. The rxn was concentrated in vacuo. The residue was diluted with water and extracted with EtOAc. The organic extract was washed with water, dried over MgSO4, filtered and concentrated in vacuo to give methyl 1-isopropyl-1H-pyrazole-3-carboxylate (0.8073 g, 4.80 mmol, 76% yield) as a clear oil. MS m/z=168.9 [M+H]+. Calculated for C8H12N2O2: 168.09. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.55 (d, J=6.85 Hz, 6H) 3.93 (s, 3H) 4.63 (dt, J=13.50, 6.75 Hz, 1H) 6.83 (d, J=2.35 Hz, 1H) 7.46 (d, J=2.35 Hz, 1H)

reactant | 1-isopropyl-1 h-pyrazole-3-caboxylic acid | 6.33 mmol, 0.9757 g | C(C)(C)N1N=C(C=C1)C(=O)O | C7H10N2O2
reactant | sulfuric acid | 6.33 mmol, 0.355 ml | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 31.6 ml | CO | CH4O
product | methyl 1-isopropyl-1H-pyrazole-3-carboxylate | 4.80 mmol, 0.8073 g, 76% yield | C(C)(C)N1N=C(C=C1)C(=O)OC | C8H12N2O2
